US05840751
5,6-Dihydro-6,6-diphenyl-2H-pyran-2-one
The title compound was prepared as described in General Method 1 using 20 mmol of methyl acetoacetate, 22 mmol of NaH 60% dispersion in oil, 21 mmol of 1.6M n-butyl lithium in hexane, 20 mmol of benzophenone and 70 mL of tetrahydrofuran. Upon concentrating the reaction a solid precipitated out which was triturated with ether and filtered (m.p. 170.5°-173° C.). 1H NMR (CDCl3) δ 3.18 (s, 2 H), 3.4 (s, 2 H), 7.3-7.5 (m, 10 H).

reactant | methyl acetoacetate | 20 mmol | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 22 mmol | [H-].[Na+]
reactant | n-butyl lithium | 21 mmol, 1.6M | C(CCC)[Li]
reactant | benzophenone | 20 mmol | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 5,6-Dihydro-6,6-diphenyl-2H-pyran-2-one | C1(=CC=CC=C1)C1(CC=CC(O1)=O)C1=CC=CC=C1 | C17H14O2
